US04895947
To 200 ml of methanol solution containing 13.2 g of cinnamaldehyde was added 13.6 g of benzoylhydrazine, followed by stirring for 30 minutes at room temperature, for the precipitation of crystals. The crystals were filtered off and dried. Thus there was obtained 22 g of cinnamaldehyde benzoyl hydrazone (mp. 192°-194° C.).

reactant | cinnamaldehyde | 13.2 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | benzoylhydrazine | 13.6 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | methanol | 200 ml | CO | CH4O
product | cinnamaldehyde benzoyl hydrazone | 22 g | C(C1=CC=CC=C1)(=O)NN=CC=CC1=CC=CC=C1 | C16H14N2O
